US06831080B2
Step C: (±)-7-(1-Aminoethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester
A solution of 7-(1-hydroxyiminoethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester (1.0 g, 3.44 mmol) in MeOH (50 ml) was hydrogenated for 1 h under a pressure of 44 psi, in presence of 50% RaNi/H2O (2 mL). Additional catalyst was added (1 mL) and the hydrogenation proceeded for 3 hours. The catalyst was filtered off and filtrate evaporated. The crude product was chromatographed (SiO2, 15% of 2.0M NH3/MeOH in CH3CN) to provide 0.72 g (76%) of the title compound as a white solid. m.p: 61-64° C.

reactant | 7-(1-hydroxyiminoethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 3.44 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)C(C)=NO | C16H22N2O3
solvent | MeOH | 50 ml | CO | CH4O
catalyst | RaNi H2O | 2 mL | [Ni].O
product | (±)-7-(1-Aminoethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 0.72 g, 76% | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)C(C)N | C16H24N2O2
